US08461158B2
Reaction of 1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-3-azetidinamine and methanesulfonyl chloride as in Example 28 gave N-{1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-3-azetidinyl}methanesulfonamide in 86% yield: mp 307-309° C.; 1H NMR (DMSO-d6) δ 7.98 (d, J=8.1 Hz, 1H), 7.92 (br s, 1H), 7.73 (t, JHF=53.0 Hz, 1H), 7.40 (t, J=8.2 Hz, 1H), 6.95 (d, J=7.7 Hz, 1H), 4.54-4.33 (m, 3H), 4.07-3.97 (m, 2H), 3.97 (s, 3H), 3.80-3.78 (m, 4H), 3.69 (m, 4H), 2.97 (s, 3H); Anal. Calcd. for C20H24F2N8O4S.0.25H2O: C, 46.6; H, 4.8; N, 21.8. Found: C, 46.7; H, 4.8; N, 22.0%.

reactant | 1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-3-azetidinamine | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CC(C1)N)C=CC=C2OC)F | C19H22F2N8O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-{1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-3-azetidinyl}methanesulfonamide | 86% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CC(C1)NS(=O)(=O)C)C=CC=C2OC)F | C20H24F2N8O4S
